US07935715B2
To a solution of 0.39 g of NaHCO3 (4.6 mmol) and 0.58 g of Na2SO3 (4.6 mmol) in water (2.5 mL) were added 0.5 g (2.3 mmol) of 3-pyridinesulfonyl chloride. The reaction was heated at 80° C. for 3 h. The solvent was removed under reduced pressure. The filtrate was concentrated under reduced pressure to give 3-pyridylsulfinic acid sodium salt.

reactant | NaHCO3 | 4.6 mmol, 0.39 g | C(=O)(O)[O-].[Na+]
reactant | Na2SO3 | 4.6 mmol, 0.58 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | 3-pyridinesulfonyl chloride | 2.3 mmol, 0.5 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | water | 2.5 mL | O | H2O
product | 3-pyridylsulfinic acid sodium salt | [Na+].N1=CC(=CC=C1)S(=O)[O-] | InChI=1S/C5H5NO2S.Na/c7-9(8)5-2-1-3-6-4-5;/h1-4H,(H,7,8);/q;+1/p-1
